* D:\Repositorios\Facultad\SC2_2025\simulaciones\Circuito1_VFA_VFA.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 Vin N001 V+ V- vo1 LM324
X§U2 vo1 N002 V+ V- vo2 LM324
R1 0 N002 10k
R2 N002 vo2 12.361k
R3 0 N001 1k
R4 N001 vo2 9k
V1 V+ 0 15
V2 V- 0 -15
V3 Vin 0 1 AC 1
.include LM324_2P.lib
* .tran 1
.ac dec 10000 1 100Meg
* .op
.backanno
.end
